US07618960B2
1-(2,6-difluoropyridin-3-yl)ethylamine
Zinc (9.29 g) was added in three portions to a solution of 1-(2,6-difluoropyridin-3-yl)ethanone oxime (2.44 g) in trifluoroacetic acid (100 mL), and the reaction solution was stirred at room temperature for two hours. The reaction solution was made basic (pH 14) with 5 N sodium hydroxide and filtered through celite, and the celite was washed with chloroform. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 1.61 g of the title compound.

reactant | 1-(2,6-difluoropyridin-3-yl)ethanone oxime | 2.44 g | FC1=NC(=CC=C1C(C)=NO)F | C7H6F2N2O
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Zinc | 9.29 g | [Zn] | Zn
product | 1-(2,6-difluoropyridin-3-yl)ethylamine | 1.61 g | FC1=NC(=CC=C1C(C)N)F | C7H8F2N2
